US04937268
Methyl [(3-pyridinyl)oxy]acetate
Sodium hydride (3.78 g, 80% suspension in oil) was added to a solution of 3-pyridinol (10 g) in THF (150 ml) at 0°. The mixture was stirred under nitrogen for 30 min, treated dropwise with methyl bromoacetate (19.3 g), heated under reflux for 24 h, poured into ice-water (200 ml) and extracted with ethyl acetate (2×100 ml). The combined organic extracts were dried and concentrated to give an oil which was purified by FCC, eluting with System G (98:2:1) to give the title compound (4 g), as an oil. T.l.c. (System E 80:20:1) Rf 0.46

reactant | Sodium hydride | 3.78 g | [H-].[Na+]
reactant | 3-pyridinol | 10 g | N1=CC(=CC=C1)O | C5H5NO
reactant | methyl bromoacetate | 19.3 g | BrCC(=O)OC | C3H5BrO2
solvent | THF | 150 ml | C1CCOC1 | C4H8O
product | Methyl [(3-pyridinyl)oxy]acetate | 4 g | N1=CC(=CC=C1)OCC(=O)OC | C8H9NO3
